US07544699B2
To a solution of 6-methoxy-1H-benzo[d][1.3]oxazine-2,4-dione (7.0 g, 36.2 mmol) in THF (50 mL) was added NH4OH (20 mL) and the reaction was stirred at rt for 1 h. The solution was concentrated under reduced pressure and dried to give 5.0 g of 2-amino-5-methoxy-benzamide as a dark brown solid.

reactant | 6-methoxy-1H-benzo[d][1.3]oxazine-2,4-dione | 36.2 mmol, 7.0 g | COC1=CC2=C(NC(OC2=O)=O)C=C1 | C9H7NO4
reactant | NH4OH | 20 mL | [NH4+].[OH-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-amino-5-methoxy-benzamide | 5.0 g | NC1=C(C(=O)N)C=C(C=C1)OC | C8H10N2O2
